US07772271B2
A mixture of 2-(6-amino-pyridin-3-yl)-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indole-3-carbonitrile (115 mg, 0.3 mmol), 4-nitrophenylchloroformate (91 mg, 0.45 mmol) in pyridine (1.0 mL) was stirred at 30° C. for 2 h, followed by the addition of (R)-1-cyclopropylethanol (150 μL, 1.5 mmol). The mixture was stirred at 80° C. overnight and diluted with water (10 mL) and CH2Cl2 (5 mL). The organic layer was washed with water (3×5 mL), HCl (2N, 3×5 mL), sat. aq. NaHCO3 (3×5 mL) and and purified on silica gel (CH2Cl2/EtOAc, 1:9) to provide (R)-{4-[3-cyano-1-cyclopropyl-6-(pyrimidin-2-yloxy)-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropylethyl ester (25 mg, 17%).

reactant | 2-(6-amino-pyridin-3-yl)-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indole-3-carbonitrile | 0.3 mmol, 115 mg | NC1=CC=C(C=N1)C=1N(C2=CC(=CC=C2C1C#N)OC1=NC=CC=N1)C1CCC1 | C22H18N6O
reactant | 4-nitrophenylchloroformate | 0.45 mmol, 91 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | (R)-1-cyclopropylethanol | 1.5 mmol, 150 μL | C1(CC1)[C@@H](C)O | C5H10O
reactant | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 10 mL | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-{4-[3-cyano-1-cyclopropyl-6-(pyrimidin-2-yloxy)-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropylethyl ester | 25 mg, 17% | C1(CC1)[C@@H](C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1=NC=CC=N1)C1CC1)=O | C28H25N5O3
